US04433149
To a solution of methyl P-methyl-2-nitro-5-ethylthiophenylphosphinate (3.6 g) in 5% aqueous acetic acid (40 ml) is added 3.0 g of iron by portions at reflux temperature. After addition is complete, the mixture is heated under reflux for another 2 hours. The reaction mixture is filtered and the filtrate is extracted with methylene chloride (3X). The combined extracts are washed, dried and concentrated to dryness to yield methyl P-methyl-2-amino-5-ethylthiophenylphosphinate.

reactant | methyl P-methyl-2-nitro-5-ethylthiophenylphosphinate | 3.6 g | CP(OC)(=O)C1=C(C=CC(=C1)SCC)[N+](=O)[O-] | C10H14NO4PS
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 3.0 g | [Fe] | Fe
product | methyl P-methyl-2-amino-5-ethylthiophenylphosphinate | CP(OC)(=O)C1=C(C=CC(=C1)SCC)N | C10H16NO2PS
